US07507740B2
(i) Production of 4-chloro-5-(4,4,4-trifluorobutyl)-5H-pyrrolo[3,2-d]pyrimidine
To a suspension of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (250 mg) in N,N-dimethylformamide (1.6 mL) was added cesium carbonate (675 mg) under ice-cooling, and the mixture was stirred while warming to room temperature for 15 min. To the reaction mixture was added 4-bromo-1,1,1-trifluorobutane (466 mg), and the mixture was stirred at room temperature for 15 hrs. The reaction mixture was diluted with water (20 mL) and extracted with ethyl acetate (20 mL×3). The organic layer was washed with saturated brine (20 mL×3) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (silica gel, eluent:hexane/ethyl acetate=9/1→0/10). The object fraction was concentrated under reduced pressure and dried to give the title compound (440 mg) as a colorless transparent oil.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 250 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | cesium carbonate | 675 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-bromo-1,1,1-trifluorobutane | 466 mg | BrCCCC(F)(F)F | C4H6BrF3
solvent | N,N-dimethylformamide | 1.6 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 4-chloro-5-(4,4,4-trifluorobutyl)-5H-pyrrolo[3,2-d]pyrimidine | 440 mg | ClC=1C2=C(N=CN1)C=CN2CCCC(F)(F)F | C10H9ClF3N3
